US06528655B1
Preparation of N-(Nα-Caffeoyl-Nγ-trityl-L-asparagyl)dopamine (Compound No. 7)
N-[Nα-(9-fluorenylmethoxycarbonyl)-Nγ-trityl-L-asparagyl]dopamine (1.0 g, 1.5 mmol) was deprotected according to the indications of general procedure G. The intermediate was coupled with caffeic acid (348 mg, 2.2 mmol) following general procedure D. The crude material was purified by flash chromatography using a solvent gradient from 30% to 70% EtOAc/CHCl3 containing 1% AcOH. The final product was obtained as yellow powder (400 mg, 44%).

reactant | N-[Nα-(9-fluorenylmethoxycarbonyl)-Nγ-trityl-L-asparagyl]dopamine | 1.5 mmol, 1.0 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H](CC(NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)NCCC1=CC(O)=C(O)C=C1 | C46H41N3O6
reactant | caffeic acid | 2.2 mmol, 348 mg | C(\C=C\C1=CC(O)=C(O)C=C1)(=O)O | C9H8O4
product | N-(Nα-Caffeoyl-Nγ-trityl-L-asparagyl)dopamine | C(\C=C\C1=CC(O)=C(O)C=C1)(=O)N[C@@H](CC(NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)NCCC1=CC(O)=C(O)C=C1 | C40H37N3O7
